US05204473
Di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) n-Butylmalonate
A mixture of diethyl n-butylmalonate (11.55 g, 53.4 mmol), 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine (20.0 g, 107 mmol), lithium amide (120 mg), and xylene (100 ml) is distilled until the distillate reaches a constant temperature of 137° C. Xylene is evaporated and the residue is dissolved in heptane. Acetic acid is added and the resulting precipitate is filtered. The filtrate is concentrated to obtain 26.2 g (98% yield) of a light yellow oil.

reactant | diethyl n-butylmalonate | 53.4 mmol, 11.55 g | C(CCC)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | 107 mmol, 20.0 g | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
catalyst | lithium amide | 120 mg | [NH2-].[Li+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) n-Butylmalonate | 26.2 g, 98% yield | C(CCC)C(C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C27H50N2O6
